US06645939B1
1-(3,5-Dichlorobenzenesulfonyl)piperazine-2(S)-carboxylic acid, methyl ester (55 mg, 0.16 mmol) was added to a 5 mL round bottom flask containing 2 mL of acetonitrile and 37% formaldehyde (63 mg, 0.78 mmol) at 0°. Sodium cyanoborohydride (30 mg, 3 equivalents) was added portionwise over 10 minutes. The mixture was stirred at 25° for 2 hours. The solvent was removed under reduced pressure and the residue partitioned between methylene chloride and 1N HCl. The aqueous layer was neutralized with saturated sodium bicarbonate and extracted with methylene chloride. The organic layer was dried over anhydrous magnesium sulfate, filtered, and the solvent removed under reduced pressure. Flash chromatography on silica gel eluted with (98/2/0.1 methylene chloride/methanol/acetic acid) gave 38 mg of 1-(3,5-dichlorobenzenesulfonyl)-4-methyl-piperazine-2(S)-carboxylic acid, methyl ester. The methyl ester was hydrolysed and isolated as described in Example 39, Step F.

reactant | 1-(3,5-Dichlorobenzenesulfonyl)piperazine-2(S)-carboxylic acid, methyl ester | 0.16 mmol, 55 mg | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N1[C@@H](CNCC1)C(=O)OC | C12H14Cl2N2O4S
reactant | formaldehyde | 0.78 mmol, 63 mg | C=O | CH2O
reactant | Sodium cyanoborohydride | 30 mg, 3 equivalents | C(#N)[BH3-].[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 1-(3,5-dichlorobenzenesulfonyl)-4-methyl-piperazine-2(S)-carboxylic acid, methyl ester | 38 mg | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N1[C@@H](CN(CC1)C)C(=O)OC | C13H16Cl2N2O4S
